US07342014B2
Methyl 5-methyl-5,6-dihydro-4H-thieno[2,3-c]pyrrole-2-carboxylate
Methyl 4,5-bis(chloromethyl)-2-thiophenecarboxylic acid (D. J. Zwanenburg and Hans Wynberg, J. Org. Chem., 34, 333-340, (1969)) (520 mg) was dissolved in acetonitrile (600 ml), methylamine (40% methanol solution, 722 μl) was added to the solution, and the mixture was stirred at room temperature for 3 days. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (methylene chloride:methanol=1:0→19:1) to obtain the title compound (176 mg).

reactant | Methyl 4,5-bis(chloromethyl)-2-thiophenecarboxylic acid | 520 mg | CC1=C(SC(=C1CCl)CCl)C(=O)O | C8H8Cl2O2S
reactant | methylamine | 722 μl | CN | CH5N
reactant | acetonitrile | 600 ml | C(C)#N | C2H3N
product | Methyl 5-methyl-5,6-dihydro-4H-thieno[2,3-c]pyrrole-2-carboxylate | 176 mg | CN1CC2=C(C1)C=C(S2)C(=O)OC | C9H11NO2S
